US05684034
2-Chloro-5-methoxy-1H-indole-3-acetic acid methyl ester. Cooling with a dry ice-ethanol bath, 20 mL (0.026 mol) of 1.3M sec-butyl lithium/cyclohexane was added to 5.1 g (0.025 mol) of 1-dimethylaminomethyl-5-methoxy-1H-indole in 100 mL of THF keeping the temperature below -50° C. The cooling bath was removed and the temperature allowed to reach 0° C. and the bath then replaced. At -60° C., 3.32 mL (0.026 mol) of benzenesulfonyl chloride in 10 mL of THF was added, stirred 0.3 hours, the bath removed, and the temperature allowed to reach 20° C. over 1 hour. To this mixture was added 100 mL of 1N HCl and 50 mL of EtOAc and the mixture stirred for 20 hours. After making basic with 5N NaOH, the EtOAc layer was separated, washed with water, dried (Na2SO4), and concentrated at reduced pressure. The residue was chromatographed on silica eluting with toluene to give 1.37 g (29% yield) of crude 2-chloro-5-methoxy-1H-indole. To this material (7.55 mmol) in 30 mL of THF was added 4.7 mL (7.55 mmol) of 1.6M n-butyl lithium/hexane keeping the temperature below 10° C. with an ethanol-ice bath. After 0.25 h, 7.55 mL (7.55 mmol) of 1M ZnCl2 /ether was added, stirred 2 hours, concentrated at reduced pressure, and 40 mL of toluene added followed by 0.72 mL (7.55 mmol) of methyl 2-bromoacetate. The mixture was stirred for 16 hours, warmed at 76° C. for 4 h, cooled, and 50 mL of 1N HCl and 40 mL of EtOAc added. After 0.5 hour, the organic layer was separated, dried (Na2SO4), and concentrated at reduced pressure. The residue was chromatographed on silica and eluted with a solvent gradient (toluene→20% EtOAc/toluene) to give 0.79 g (41% yield) of 2-chloro-5-methoxy-1H-indole-3-acetic acid methyl ester, as an oil.

reactant | 2-Chloro-5-methoxy-1H-indole-3-acetic acid methyl ester | COC(CC1=C(NC2=CC=C(C=C12)OC)Cl)=O | C12H12ClNO3
reactant | sec-butyl lithium cyclohexane | 0.026 mol, 1.3M, 20 mL | C(C)(CC)[Li].C1CCCCC1
reactant | 1-dimethylaminomethyl-5-methoxy-1H-indole | 0.025 mol, 5.1 g | CN(C)CN1C=CC2=CC(=CC=C12)OC | C12H16N2O
reactant | benzenesulfonyl chloride | 0.026 mol, 3.32 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-chloro-5-methoxy-1H-indole | 1.37 g, 29% yield | ClC=1NC2=CC=C(C=C2C1)OC | C9H8ClNO
